US04831151
A solution of 3.24 g (20 mmol) of 1,3-diamino-2-ethylimidazolium chloride and 16.5 g (100 mmol) of p-nitroacetophenone in 150 ml of glacial acetic acid is left to stand for 2 days, concentrated and the residue is crystallized from ethanol/ether. The crystals are placed on a column loaded with 50 g of silica gel. The material eluted with methylene chloride/methanol (7:3) is recrystallized from ethanol. There is obtained 1-amino-2-ethyl-3-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride of melting point 201°-203°.

reactant | 1,3-diamino-2-ethylimidazolium chloride | 20 mmol, 3.24 g | [Cl-].N[N+]1=C(N(C=C1)N)CC
reactant | p-nitroacetophenone | 100 mmol, 16.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1-amino-2-ethyl-3-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride | [Cl-].N[N+]1=C(N(C=C1)N=C(C1=CC=C(C=C1)[N+](=O)[O-])C)CC | InChI=1S/C13H16N5O2.ClH/c1-3-13-16(14)8-9-17(13)15-10(2)11-4-6-12(7-5-11)18(19)20;/h4-9H,3,14H2,1-2H3;1H/q+1;/p-1
